US09260375B2
Benzyl 2-keto-2-cyclopentylacetate
To a solution of benzyl 2-cyclopentyl-2-hydroxyacetate (1.76 g, 7.5 mmol) in dichloromethane (30 mL) was added Dess-Martin reagent (5 g, 11.8 mmol), and the mixture was stirred at room temperature for 15 h. The reaction mixture was diluted with 10% sodium thiosulfate, and extracted with diethyl ether. The organic layer was washed with water, saturated aqueous sodium hydrogen carbonate, and brine, dried over anhydrous magnesium sulfate, filtered, and the organic solvent in the filtrate was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate 9:1) to give 1.383 g of the title compound as oil (yield: 79%).

reactant | benzyl 2-cyclopentyl-2-hydroxyacetate | 7.5 mmol, 1.76 g | C1(CCCC1)C(C(=O)OCC1=CC=CC=C1)O | C14H18O3
reactant | Dess-Martin reagent | 11.8 mmol, 5 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | Benzyl 2-keto-2-cyclopentylacetate | 1.383 g, yield: 79% | O=C(C(=O)OCC1=CC=CC=C1)C1CCCC1 | C14H16O3
